US08974920B2
1,4-Dihydro-1,4-epoxytriphenylene (A)
9-Bromophenanthrene (18.6 g, 72.3 mmol), sodium amide (8.47 g, 217.0 mmol) were charged in a two-necked bottle. The bottle was then vacuumed and purged with nitrogen, and dried THF (120 mL) and furan (78.1 mL, 1.07 mmol) were added to the bottle. The mixture in the bottle was heated to 70° C. for reaction for 24 hours, and the resulting was filtered to remove metal. The filtrate was condensed to remove the solvent, and then purified by chromatography with hexanes to yield A (14.7 g, 83%) as white solid powder.

reactant | 9-Bromophenanthrene | 72.3 mmol, 18.6 g | BrC=1C2=CC=CC=C2C=2C=CC=CC2C1 | C14H9Br
reactant | sodium amide | 217.0 mmol, 8.47 g | [NH2-].[Na+]
reactant | furan | 1.07 mmol, 78.1 mL | O1C=CC=C1 | C4H4O
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 1,4-Dihydro-1,4-epoxytriphenylene | O1C2C=CC1C=1C3=CC=CC=C3C3=CC=CC=C3C21 | C18H12O
